US09359375B2
(R)-4-(1-amino-3-(benzyloxy)-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide
To a solution of (R)-3-(benzyloxy)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)propanamide (73 mg, 0.18 mmol) in DMSO (2 mL), K2CO3 (200 mg, 1.44 mmol) and H2O2 (50% aq., 1.00 mL) were added. After being stirred at 90 C for 15 min, the mixture was purified by HPLC to give the titled compound (6 mg). MS 426.3 (M+H); UV 200.4, 293.4 nm

reactant | (R)-3-(benzyloxy)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)propanamide | 0.18 mmol, 73 mg | C(C1=CC=CC=C1)OC[C@H](C(=O)N)NC1=CC(=C(C=C1)C#N)NC1=CC(=NS1)C | C21H21N5O2S
reactant | K2CO3 | 1.44 mmol, 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 1.00 mL | OO | H2O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (R)-4-(1-amino-3-(benzyloxy)-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide | 6 mg | NC([C@@H](COCC1=CC=CC=C1)NC1=CC(=C(C(=O)N)C=C1)NC1=CC(=NS1)C)=O | C21H23N5O3S
